US08106064B2
3-(5-Cyclopropyl-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-benzonitrile:
At 0° C., NaH (60%, 9 mg, 0.4 mmol, 2 eq.) was added to (5-cyclopropyl-2,6-dimethoxy-pyrimidin-4-yl)-(3,5-dimethyl-phenyl)-acetonitrile (67 mg, 0.2 mmol) in 2 mL DMF solution. Oxygen balloon was applied. The reaction was stirred at 0° C. and warmed up to room temperature overnight. LC-MS shows the reaction complete. Ethyl acetate was added to the reaction mixture, followed by washing with brine. The organic layer was concentrated down and purified (silica gel, 0-50% EtOAc/hexane) to give white solid (31 mg, 48%). LC-MS shows 324.2 (M+1). 1H NMR (300 MHz, CDCl3): δ 7.98 (s, 1H), 7.90 (s, 1H), 7.63 (s, 1H), 4.05 (s, 3H), 3.93 (s, 3H), 2.43 (s, 3H), 1.53 (m, 1H), 0.77 (m, 2H), 0.42 (m, 2H).

reactant | NaH | 0.4 mmol, 9 mg, 2 eq. | [H-].[Na+]
reactant | (5-cyclopropyl-2,6-dimethoxy-pyrimidin-4-yl)-(3,5-dimethyl-phenyl)-acetonitrile | 0.2 mmol, 67 mg | C1(CC1)C=1C(=NC(=NC1OC)OC)C(C#N)C1=CC(=CC(=C1)C)C | C19H21N3O2
reactant | Oxygen | O=O | O2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-(5-Cyclopropyl-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-benzonitrile | 31 mg, 48% | C1(CC1)C=1C(=NC(=NC1OC)OC)C(=O)C=1C=C(C#N)C=C(C1)C | C18H17N3O3
